US07666879B2
3-Iodo-7-chloro-imidazo[1,2,a]pyridine
To a solution of 7-chloro-imidazo[1,2,a]pyridine (6.10 g, 40 mmol) (Yamanaka, Motosuke et al., Chemical & Pharmaceutical Bulletin (1991), 39(6), 1556-67) in dry acetonitrile (100 mL), add N-iodosuccinamide. Stir for 30 minutes. Filter off the precipitate and then wash with acetonitrile. Recrystallize the precipitate from acetonitrile to give a white solid. Concentrate the filtrate, dilute with ethyl acetate, wash with 10% sodium hydrogensulfite (NaHSO3), saturated aqueous sodium bicarbonate, saturated aqueous NaCl, dry over MgSO4, filter and evaporate. Use the combined solid without further purification (8.0 g, 73%). 1H NMR (DMSO) δ 8.33 (d, 1H, J=7.3 Hz), 7.79 (d, 1H, J=2.0 Hz), 7.72 (s, 1H), 7.07 (dd, 1H, J=7.3 and 2.0 Hz).

reactant | 7-chloro-imidazo[1,2,a]pyridine | 40 mmol, 6.10 g | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
reactant | N-iodosuccinamide | INC(CCC(=O)N)=O | C4H7IN2O2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-Iodo-7-chloro-imidazo[1,2,a]pyridine | IC1=CN=C2N1C=CC(=C2)Cl | C7H4ClIN2
